US07273877B2
4-Chloro-1-methyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid (133 mg, 0.709 mmol) and 2-fluoro-4-iodoaniline (172 mg, 0.726 mmol) were combined in a round bottom flask equipped with magenetic stir bar. The flask was immersed in an ice bath and lithium bis(trimethylsilyl)amide (1.0 M in tetrahydrofuran, 5.0 mL, 5.0 mmol) was added slowly (5 min) with vigorous stirring under an atmosphere of nitrogen. The reaction mixture was further stirred for 1 h at 0° C. and 1 h at ambient temperature. The reaction mixture was diluted with 1 M hydrochloric acid and water and was extracted with ethyl acetate (3×). The extracts were dried over magnesium sulfate and concentrated in vacuo. Upon concentrateion, 4-(2-fluoro-4-iodoanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid (114 mg, 41% yield) was isolated directly from the ethyl acetate by filtration and drying in vacuo: 1H NMR (DMSO-d6, 400 MHz) δ 13.30 (v br s, 1H), 9.66 (s, 1H), 8.52 (s, 1H), 7.76 (dd, J=10.1, 1.9 Hz, 1H), 7.59 (br d, J=8.5 Hz, 1H), 7.31 (t, J=8.5 Hz, 1H), 5.49 (s, 1H), 3.41 (s, 3H); MS (APCI+) 388.9.

reactant | 4-Chloro-1-methyl-6-oxo-1,6-dihydro-pyridine-3-carboxylic acid | 0.709 mmol, 133 mg | ClC=1C(=CN(C(C1)=O)C)C(=O)O | C7H6ClNO3
reactant | 2-fluoro-4-iodoaniline | 0.726 mmol, 172 mg | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | lithium bis(trimethylsilyl)amide | 5.0 mmol, 1.0 M, 5.0 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 1 M | Cl | ClH
solvent | water | O | H2O
product | 4-(2-fluoro-4-iodoanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid | 114 mg, 41% yield | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)O)C=CC(=C1)I | C13H10FIN2O3
